### PR TITLE
[Merged by Bors] - feat(RingTheory/Etale): descent along faithfully flat maps

### PR DESCRIPTION
**Pull request by chrisflav**
From Pi1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Etale/Descent.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
...
+module
+
+public import Mathlib.RingTheory.RingHom.Etale
+public import Mathlib.RingTheory.Finiteness.Descent
+public import Mathlib.RingTheory.Extension.Cotangent.BaseChange
+
+/-!
+# Etale descends along faithfully flat ring maps
+
+In this file we show that smooth, unramified and étale descends along faithfully flat
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Descent.lean]:
```suggestion
In this file we show that smooth, unramified and étale algebras descend along faithfully flat
```

File: Mathlib/RingTheory/Etale/Descent.lean [hunk 2]
```diff
@@ -0,0 +1,112 @@
...
+
+open TensorProduct
+
+namespace Algebra
+
+variable {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
+variable (T : Type*) [CommRing T] [Algebra R T] [Module.FaithfullyFlat R T]
+
+/-- The `FinitePresentation` assumption is not necessary (see the TODO in the module docstring). -/
+lemma FormallySmooth.of_formallySmooth_tensorProduct_of_faithfullyFlat
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Descent.lean]: I understand the point about the TODO, but since `Smooth` is `FormallySmooth` + `FinitePresentation`, this one is basically proving `Smooth` already. It’s also easy to have `Smooth T (T ⊗[R] S)` with these hyps by base-changing the finite presentation, so I am not convinced that this should be a separate thing from `Smooth.of_smooth_tensorProduct_of_faithfullyFlat` with that extra hyp. Are there many situations where this version would be more convenient over `Smooth.of_smooth_tensorProduct_of_faithfullyFlat`?

The fully general version without `FinitePresentation` that uses Raynaud-Gruson could be a `proof_wanted` for now maybe?

File: Mathlib/RingTheory/Etale/Descent.lean [hunk 3]
```diff
@@ -0,0 +1,112 @@
...
+  rw [formallySmooth_iff]
+  constructor
+  · let _ : Algebra T (S ⊗[R] T) := TensorProduct.rightAlgebra
+    let e : S ⊗[R] T ≃ₐ[T] T ⊗[R] S :=
+      .ofRingEquiv (f := TensorProduct.comm R S T) <| by simp [RingHom.algebraMap_toAlgebra]
+    have : FormallySmooth T (S ⊗[R] T) := .of_equiv e.symm
+    let e' : (S ⊗[R] T) ⊗[S] Ω[S⁄R] ≃ₗ[S ⊗[R] T] Ω[S ⊗[R] T⁄T] :=
+      KaehlerDifferential.tensorKaehlerEquiv R T S (S ⊗[R] T)
+    have : Module.Flat (S ⊗[R] T) ((S ⊗[R] T) ⊗[S] Ω[S⁄R]) := .of_linearEquiv e'
+    have : Module.Flat S (Ω[S⁄R]) := Module.Flat.of_flat_tensorProduct _ _ (S ⊗[R] T)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Descent.lean]:
```suggestion
    have : Module.Flat S Ω[S⁄R] := Module.Flat.of_flat_tensorProduct _ _ (S ⊗[R] T)
```

File: Mathlib/RingTheory/Etale/Descent.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Etale/Descent.lean]: Thanks for the suggestion, a `proof_wanted` is much better indeed!

**Comment by robin-carlier** [comment]
Many apologies for the time I took to get back to this.

Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
